US04680276
PyroGlu-D-Ala-Lys-Ser-Gln-Gly-Gly-Ser-Asn
Asn9 is replaced by: Asp, Gln, -Ala-NH, and Asn-NH2, and the polypeptides, PyroGlu-Ala-Lys-Ser-Gln-Gly-Gly-Gly-Ser-Asn, and PyroGlu-Ala-Lys-Ser-Gln-Gly-Ser-Asn.

reactant | Asp | N[C@@H](CC(O)=O)C(=O)O | C4H7NO4
reactant | Gln | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | Asn-NH2 | N[C@@H](CC(N)=O)C(=O)N | C4H9N3O2
reactant | PyroGlu-Ala-Lys-Ser-Gln-Gly-Gly-Gly-Ser-Asn | N1[C@@H](CCC1=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(N)=O)C(=O)NCC(=O)NCC(=O)NCC(=O)N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)O | C35H57N13O16
reactant | PyroGlu-Ala-Lys-Ser-Gln-Gly-Ser-Asn | N1[C@@H](CCC1=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(N)=O)C(=O)NCC(=O)N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)O | C31H51N11O14
product | PyroGlu-D-Ala-Lys-Ser-Gln-Gly-Gly-Ser-Asn | N1[C@@H](CCC1=O)C(=O)N[C@H](C)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(N)=O)C(=O)NCC(=O)NCC(=O)N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)O | C33H54N12O15
